US07465730B2
To a solution of acetonyl acetone (11.7 mL, 100 mmol) and toluene (750 mL) was added p-phenetidine (12.9 mL, 100 mmol) and glacial acetic acid (1 mL). The mixture was heated at reflux overnight. After cooling to rt, the mixture was concentrated in vacuo and purified by column chromatography on silica gel (15% EtOAc/hexanes) to give 2,5-dimethyl-1-(4-ethoxyphenyl)pyrrole as a pale yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.13-7.10 (m, 2H), 6.97-6.94 (m, 2H), 5.88 (br s, 2H), 4.08 (q, 2H), 2.02 (s, 6H), 1.46 (t, 3H); MS (ESI) 216 (M+H)+.

reactant | acetonyl acetone | 100 mmol, 11.7 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-phenetidine | 100 mmol, 12.9 mL | CCOC=1C=CC(=CC1)N | C8H11NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2,5-dimethyl-1-(4-ethoxyphenyl)pyrrole | CC=1N(C(=CC1)C)C1=CC=C(C=C1)OCC | C14H17NO
